US06521666B1
2,6-Di(methoxymethoxy)benzeneboronic acid (0.25 g) was coupled with N-(2,6-dichlorobenzoyl)-O-(trifluoromethanesulfonyl)-L-tyrosine ethyl ester in a similar procedure as described in Example 5-3) to afford N-(2,6-dichlorobenzoyl)-4-[2,6-di(methoxymethoxy)phenyl]-L-phenylalanine ethyl ester. ESMS: m/z 562 (MH+).

reactant | 2,6-Di(methoxymethoxy)benzeneboronic acid | 0.25 g | COCOC1=C(C(=CC=C1)OCOC)B(O)O | C10H15BO6
reactant | N-(2,6-dichlorobenzoyl)-O-(trifluoromethanesulfonyl)-L-tyrosine ethyl ester | C(C)OC([C@@H](NC(C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F)=O | C19H16Cl2F3NO6S
product | N-(2,6-dichlorobenzoyl)-4-[2,6-di(methoxymethoxy)phenyl]-L-phenylalanine ethyl ester | C(C)OC([C@@H](NC(C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1OCOC)OCOC)=O | C28H29Cl2NO7
